US08426420B2
v) 4-(2-Amino-3-fluoro-butyryl)-piperazine-1-carboxylic acid propyl ester
To a solution of 591 mg 4-(2-Benzyloxycarbonylamino-3-fluoro-butyryl)-piperazine-1-carboxylic acid propyl ester in 20 ml ethanol were added 0.1 g Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (1 bar) for 1 h. The reaction mixture was filtrated over a plug of Celite, washed with ethanol and concentrated to give the crude product which was used in the subsequent reaction. Yield: 347 mg.

reactant | 4-(2-Benzyloxycarbonylamino-3-fluoro-butyryl)-piperazine-1-carboxylic acid propyl ester | 591 mg | C(CC)OC(=O)N1CCN(CC1)C(C(C(C)F)NC(=O)OCC1=CC=CC=C1)=O | C20H28FN3O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 4-(2-Amino-3-fluoro-butyryl)-piperazine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCN(CC1)C(C(C(C)F)N)=O | C12H22FN3O3
